US06447790B1
Synthesis of N-myristoyl-N-methyl-β-alanine 2-hexyldecyl ester
N-Myristoyl-N-methyl-β-alanine (55 g; manufactured by Kawaken Fine Chemicals Co., Ltd.) and 45 g of 2-hexyldecanol were charged in a 500-ml flask, and thereto was added 2 g of p-toluenesulfonic acid as the catalyst. The mixture was subjected to a reaction at 130° C. for 5 hours. After completion of the reaction, the reaction mixture was neutralized with 1.6 g of an aqueous solution (50%) of sodium hydroxide, the aqueous layer was removed therefrom, the residue was washed with 100 g of deionized water and dehydrated under the condition of 60 mmHg and 95-105° C., and the insoluble substances were filtered off with a filter paper to give 70 g of an oily product as the filtrate.

reactant | N-Myristoyl-N-methyl-β-alanine | 55 g | C(CCCCCCCCCCCCC)(=O)N(CCC(=O)O)C | C18H35NO3
reactant | 2-hexyldecanol | 45 g | C(CCCCC)C(CO)CCCCCCCC | C16H34O
reactant | sodium hydroxide | [OH-].[Na+]
catalyst | p-toluenesulfonic acid | 2 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
product | N-myristoyl-N-methyl-β-alanine 2-hexyldecyl ester | 70 g | C(CCCCC)C(COC(CCN(C)C(CCCCCCCCCCCCC)=O)=O)CCCCCCCC | C34H67NO3
